US07045360B2
(S)-(1-Fluorocarbonyl-ethyl)-carbamic Acid tert-butyl Ester (25c)
To an oven-dried, septaed 10 mL round-bottom flask, cooled under an argon atmosphere, and charged with (S)-N-BOC-alanine, 24c, (189.2 mg, 1.00 mmol) was added 2.5 mL freshly distilled CH2Cl2 under argon. The reaction was cooled to −15° C. and to the flask was added cyanuric fluoride (450 μL, 5 mmol). The reaction was stirred at −15° C. for 15 minutes then anhydrous pyridine (81 μL, 1.0 mmol) was added. Stirring was maintained at −15° C. for 90 minutes, with reaction progress indicated by the gradual formation of a precipitate. Without warming, the crude reaction was poured over ice, and immediately extracted twice with CH2Cl2. The combined CH2Cl2 extracts were washed once with water, dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo. The resulting colorless oil was dissolved in CH2Cl2, and precipitated with hexane to afford 163.5 mg of a mixture of 24c and 25c as white crystals. FTIR (film) 1842 cm−1.

reactant | (S)-N-BOC-alanine | C(=O)(OC(C)(C)C)N[C@@H](C)C(=O)O | C8H15NO4
reactant | cyanuric fluoride | 5 mmol, 450 μL | N1=C(F)N=C(F)N=C1F | C3F3N3
reactant | pyridine | 1.0 mmol, 81 μL | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (S)-(1-Fluorocarbonyl-ethyl)-carbamic Acid tert-butyl Ester | 163.5 mg | C(C)(C)(C)OC(N[C@@H](C)C(=O)F)=O | C8H14FNO3
